US04226801
A mixture of 1,12-dodecanediol (2,2 g, 0.011 mol), sodium hydride (0.91 g. 0.023 mol, 61%) and 25 ml of dry dimethylformamide were stirred under a nitrogen atmosphere at 90°-95° C. for 12 hours. After cooling, 4.0 g (0.23 mol) of 4-nitrophthalonitrile was added to the white salt mixture. The salt dissolved quickly and the mixture was heated at 100°-110° C. for 4 hours. Infrared analysis indicated that a large quantity of 4-nitrophthalonitrile was still present. The temperature was increased to 140°-145° C. and the mixture was stirred at this temperature for 15 hours. The cooled reaction mixture was poured into 200 ml of cold water and the product was extracted into three, 75 ml portions of methylene chloride. The combined extract was washed several times with water, charcoaled, dried over anhydrous sodium sulfate, and concentrated at reduced pressure. Recrystallization of the crude material from ethanol-water yielded 1.7 g (40%) of 1,12-bis(3,4-dicyanophenoxy) dodecane.

reactant | 1,12-dodecanediol | 0.011 mol, 2,2 g | C(CCCCCCCCCCCO)O | C12H26O2
reactant | sodium hydride | 0.023 mol, 0.91 g | [H-].[Na+]
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | 4-nitrophthalonitrile | 0.23 mol, 4.0 g | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
solvent | water | 200 ml | O | H2O
product | 1,12-bis(3,4-dicyanophenoxy) dodecane | 1.7 g, 40% | C(#N)C=1C=C(OCCCCCCCCCCCCOC2=CC(=C(C=C2)C#N)C#N)C=CC1C#N | C28H30N4O2
